US04886814
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-chloro-thiazol-4-yl)ethanamine hydrochloride
Prepared analogously to Example 13 by reaction of 2-hydroxy-2-(2-chloro-thiazol-4-yl)ethanamine with 1-(4-carbomethoxymethoxyphenyl)-propan-2-one followed by precipitation of the hydrochloride with ethereal hydrochloric acid.

reactant | 2-hydroxy-2-(2-chloro-thiazol-4-yl)ethanamine | OC(CN)C=1N=C(SC1)Cl | C5H7ClN2OS
reactant | 1-(4-carbomethoxymethoxyphenyl)-propan-2-one | C(=O)(OC)COC1=CC=C(C=C1)CC(C)=O | C12H14O4
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-chloro-thiazol-4-yl)ethanamine hydrochloride | Cl.C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)Cl)O | InChI=1S/C17H21ClN2O4S.ClH/c1-11(19-8-15(21)14-10-25-17(18)20-14)7-12-3-5-13(6-4-12)24-9-16(22)23-2;/h3-6,10-11,15,19,21H,7-9H2,1-2H3;1H
